US03971819
B. 4-anilino-3-benzylamino-5-phenylsulphamyl-benzoic acid
A solution of ethyl-4-anilino-3-benzylamino-5-phenylsulphamyl-benzoate (3 g) in 1N sodium hydroxide (30 ml) was heated on a steam bath for 1 hour. The 4-anilino-3-benzylamino-5-phenylsulphamyl-benzoic acid was precipitated by addition of 4N hydrochloric acid until pH 2, and recrystallized from acetone-water and 80% ethanol in water; the melting point was 243°C.

reactant | ethyl-4-anilino-3-benzylamino-5-phenylsulphamyl-benzoate | 3 g | C(C)OC(C1=CC(=C(C(=C1)S(NC1=CC=CC=C1)(=O)=O)NC1=CC=CC=C1)NCC1=CC=CC=C1)=O | C28H27N3O4S
solvent | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
product | 4-anilino-3-benzylamino-5-phenylsulphamyl-benzoic acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(NC1=CC=CC=C1)(=O)=O)NCC1=CC=CC=C1 | C26H23N3O4S
